US05238962
A solution of 6.2 ml (0.05 mol) of 4-chlorobenzoyl chloride in 150 ml of ether is added dropwise at -10° over a period of 0.5 hour to a solution of 10 ml (0.15 mol) of ethylenediamine in 150 ml of ether. The mixture is left to warm to room temperature, filtered and the white residue is rinsed twice with ether. After concentrating the ether solution, the residue is acidified with dilute hydrochloric acid and extracted several times with ethyl acetate in order to remove the neutral constituents. The aqueous phase is made alkaline with sodium hydroxide solution and extracted several times with chloroform. After evaporating the chloroform, converting the residue into the hydrochloride and recrystallization from ethanol/ether, there are obtained 1.8 g of N-(2-aminoethyl)-4-chlorobenzamide hydrochloride which is identical with the product obtained in Example 1.

reactant | 4-chlorobenzoyl chloride | 0.05 mol, 6.2 ml | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | ethylenediamine | 0.15 mol, 10 ml | C(CN)N | C2H8N2
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | ether | 150 ml | CCOCC | C4H10O
product | N-(2-aminoethyl)-4-chlorobenzamide hydrochloride | 1.8 g | Cl.NCCNC(C1=CC=C(C=C1)Cl)=O | InChI=1S/C9H11ClN2O.ClH/c10-8-3-1-7(2-4-8)9(13)12-6-5-11;/h1-4H,5-6,11H2,(H,12,13);1H
